US07132455B2
Isopropylamine (0.78 g) was added to an acetonitrile solution (10 mL) of 3-methanesulfonyloxyphthalic anhydride (1.60 g) under ice cooling and the mixture was further stirred at room temperature for 8 hours. After finishing the reaction, the solvent and the excess of isopropylamine were distilled off under reduced pressure and the obtained crude product was washed with a small amount of acetonitrile to obtain N-isopropyl-3-methanesulfonyloxyphthalamic acid (1.80 g) having the melting point of 56–59° C.

reactant | Isopropylamine | 0.78 g | C(C)(C)N | C3H9N
reactant | 3-methanesulfonyloxyphthalic anhydride | 1.60 g | CS(=O)(=O)OC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O6S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-isopropyl-3-methanesulfonyloxyphthalamic acid | 1.80 g | C(C)(C)NC(C=1C(C(=O)O)=CC=CC1OS(=O)(=O)C)=O | C12H15NO6S
